US04368334
Preparation of Sodium p-Hydroxymandelate
The procedure of Example 1 was repeated except that the organic phase containing p-hydroxymandelic acid was treated with a molar equivalent of sodium hydroxide as a 50% w/w aqueous solution. The caustic solution was added over one hour during which time the methyl isobutyl ketone solution was maintained at about 20° C. with cooling. The precipitate of sodium p-hydroxymandelate monohydrate was filtered off and suctioned as dry as possible before drying under vacuum at 40° C.

reactant | p-hydroxymandelic acid | OC1=CC=C(C(C(=O)O)O)C=C1 | C8H8O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | Sodium p-Hydroxymandelate | OC1=CC=C(C(C(=O)[O-])O)C=C1.[Na+] | InChI=1S/C8H8O4.Na/c9-6-3-1-5(2-4-6)7(10)8(11)12;/h1-4,7,9-10H,(H,11,12);/q;+1/p-1
